US07399780B2
2-Hydroxy-3-(5-{[4-(3-methylbutyl)piperazin-1-yl]sulfonyl}pyridin-2-yl)-1H-indole-5-carbonitrile hydrochloride
The title compound was prepared as described for Example 82 using 5-cyanooxindole and 1-[(6-chloropyridin-3-yl)sulfonyl]-4-(3-methylbutyl)piperazine. Yield: 5% of the title compound as a yellow solid: 1H NMR (DMSO-d6, 400 MHz) δ 11.15 (br s, 1 H), 10.63 (br s, 1 H), 8.57 (s, 1 H), 8.02 (s, 1 H), 7.94-7.81 (m, 1 H), 7.73 (d, J=9 Hz, 1 H), 7.41 (d, J=8 Hz, 1 H), 7.05 (d, J=8 Hz, 1 H), 3.82-3.67 (m, 2 H), 3.62-3.34 (m, 2 H), 3.20-2.92 (m, 6 H), 1.64-1.46 (m, 3 H), 0.86 (d, J=6 Hz, 6 H); MS (ES) m/z 454 (M++1).

reactant | 5-cyanooxindole | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 1-[(6-chloropyridin-3-yl)sulfonyl]-4-(3-methylbutyl)piperazine | ClC1=CC=C(C=N1)S(=O)(=O)N1CCN(CC1)CCC(C)C | C14H22ClN3O2S
product | 2-Hydroxy-3-(5-{[4-(3-methylbutyl)piperazin-1-yl]sulfonyl}pyridin-2-yl)-1H-indole-5-carbonitrile hydrochloride | Yield: 5% | Cl.OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)S(=O)(=O)N1CCN(CC1)CCC(C)C)C#N | InChI=1S/C23H27N5O3S.ClH/c1-16(2)7-8-27-9-11-28(12-10-27)32(30,31)18-4-6-21(25-15-18)22-19-13-17(14-24)3-5-20(19)26-23(22)29;/h3-6,13,15-16,26,29H,7-12H2,1-2H3;1H
